US07538224B2
A mixture of 2-(diethylamino)ethylchloride hydrochloride (18 g, 0.11 mol) and 2-aminoethanol (19 mL, 0.32 mol) was stirred at 120° C. for 5 hours. After the reaction mixture was cooled to room temperature, a 1.0 mol/L aqueous solution of sodium hydroxide (40 mL) was added thereto, and the mixture was extracted with chloroform (100 mL×6). The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resulting residue was distilled to obtain N,N-diethyl-N′-(2-hydroxyethyl)ethylenediamine (7.6 g, 45%).

reactant | 2-(diethylamino)ethylchloride hydrochloride | 0.11 mol, 18 g | Cl.C(C)N(CCCl)CC
reactant | 2-aminoethanol | 0.32 mol, 19 mL | NCCO | C2H7NO
solvent | sodium hydroxide | 40 mL | [OH-].[Na+]
product | N,N-diethyl-N′-(2-hydroxyethyl)ethylenediamine | 7.6 g, 45% | C(C)N(CCNCCO)CC | C8H20N2O
